US06897231B2
A. N-[3-(5-Cyano-1-perhydro-2H-pyran-2-yl(1H-indazol-3-yl))phenyl]-3-pyridylcarboxamide
The title compound was prepared according to the procedure described in 225A, using 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (0.300 g, 0.94 mmol), nicotinoyl chloride hydrochloride (0.334 mL, 1.88 mmol), and triethyl amine (0.655 mL, 4.7 mmol). The title product was purified by column chromatography (SiO2, 5% methanol in dichloromethane) (0.215 g, 54% yield): ES-MS (m/z) 424 [M+H]+.

reactant | 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 0.94 mmol, 0.300 g | NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C19H18N4O
reactant | nicotinoyl chloride hydrochloride | 1.88 mmol, 0.334 mL | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | triethyl amine | 4.7 mmol, 0.655 mL | C(C)N(CC)CC | C6H15N
product | N-[3-(5-Cyano-1-perhydro-2H-pyran-2-yl(1H-indazol-3-yl))phenyl]-3-pyridylcarboxamide | 54% yield | C(#N)C1CCC(OC1)N1N=C(C2=CC=CC=C12)C=1C=C(C=CC1)NC(=O)C=1C=NC=CC1 | C25H21N5O2
